Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
DOE
 
Major Surgical or Invasive Procedure:
EGD (___)
 
History of Present Illness:
___ w DM, HTN p/w DOE and abdominal cramping. Pt was in USOH 
until a couple weeks PTA when she developed progressive crampy 
epigastric pain. Pain is unaffected by food, had not been 
associated with nausea until day PTA when it got worse and she 
had an episode of emesis x1 of non bloody food. 
In the last week, she has also had DOE, even with minimal 
activity such as getting out of her shower. On day PTA she had 
an episode of chest "fullness" with radiation into her L arm 
while at her MD's office. Per MD's note, her EKG was 
unremarkable at the time.
She denies fevers, chills, night swetas, weight oss, melena, 
jaundice, liver disease, NSAID use. ___ a year ago which 
she reports was normal. 
She denies ___, orthopnea, PND, other episodes of CP (beyond 
that above), weight gain. She thinks her abdomen may be a bit 
distended.
She went to her PCP's office today, had labs drawn and was found 
to have a hct ~25 (no olds for comparison), mildly elevated 
lipase, and reportedly a normal EKG. She was sent to the ED. 
In the ED:
98.4 95 140/61 18 100%RA. Labs showed hct 25.6. Stool was guaiac 
positive brown. She received IV pantoprazole. She was admitted 
for elevated lipase and anemia.

ROS otherwise negative 12 systems. 
 
Past Medical History:
asthma
HLD
trigger finger
hysterectomy remotely
lysis of adhesions remotely
DM c/b retinopathy, last A1c=8.2

 
Social History:
___
Family History:
per chart, father with history of colonic polyps
 
Physical Exam:
ADMISSION EXAM:
T 97.9, BP 135/67, HR 68, RR 18, 100% on RA 
pleasant, in bed, NAD, looks younger than stated age
anicteric, MMM
RRR, no mrg, JVP flat
CTAB
quiet BS, sntnd, neg ___
wwp, neg edema
A&Ox3, ___ BUE/BLE (minimal decrease in strength around L 
trigger
finger), sensation intact to LT BUE/BLE, EOMI, PERRL
no rash, no spider angiomata
no foley
euthymic
 
Pertinent Results:
ADMISSION LABS:
___ 09:30PM BLOOD WBC-7.0 RBC-2.89* Hgb-8.0* Hct-25.6* 
MCV-89 MCH-27.7 MCHC-31.3* RDW-12.9 RDWSD-41.2 Plt ___
___ 09:30PM BLOOD Neuts-54.4 ___ Monos-7.8 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-3.82 AbsLymp-2.47 AbsMono-0.55 
AbsEos-0.11 AbsBaso-0.04
___ 10:58PM BLOOD ___ PTT-31.6 ___
___ 09:30PM BLOOD Glucose-239* UreaN-18 Creat-0.8 Na-139 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 09:30PM BLOOD ALT-19 AST-25 AlkPhos-111* TotBili-0.1
___ 09:30PM BLOOD Lipase-75*
___ 09:30PM BLOOD cTropnT-<0.01
___ 09:30PM BLOOD Albumin-4.2 Calcium-9.8 Phos-2.9 Mg-2.1
___ 09:52PM BLOOD Lactate-1.2
___ 12:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:00AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-150 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 12:00AM URINE RBC-1 WBC-2 Bacteri-FEW Yeast-NONE Epi-1 
TransE-<1
UCx pending

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-5.3 RBC-3.32* Hgb-9.3* Hct-28.8* 
MCV-87 MCH-28.0 MCHC-32.3 RDW-13.3 RDWSD-41.6 Plt ___
___ 05:00AM BLOOD Glucose-151* UreaN-8 Creat-0.7 Na-142 
K-3.9 Cl-106 HCO3-28 AnGap-12

EKG: NSR, nl axis, nl intervals, <1mm STE in V6, biphasic T in 
V1, Q in III
CXR: bibasilar atelectasis, no acute process
 
Brief Hospital Course:
___ female w/ DM, HTN p/w new anemia and DOE with crampy 
abdominal pain, potentially c/f mild PUD.

# ACUTE BLOOD LOSS ANEMIA, DUE TO
# GASTRITIS:
Patient presented with anemia and dyspnea on exertion over the 
past few days prior to admission. She noted some dark stools, 
though no frank blood. EGD showed gastritis, likely explaining 
her anemia and epigastric pain. Biopsies were taken during the 
EGD which were pending at the time of discharge. She was 
transfused 2 units of PRBCs for a hemoglobin of 7.0 with 
associated DOE and headache. Her symptoms improved significantly 
after transfusion. She was started on pantoprazole 40mg BID as 
well as ferrous sulfate 325mg PO daily. She will see her primary 
care physician next week for a follow-up CBC.

# ABDOMINAL PAIN: 
Most likely related to gastritis. Initially there was concern 
for pancreatitis due to elevated lipase, however it was only 
mildly elevated and pain is not characteristic of pancreatitis. 
Pain improved with initiation of pantoprazole.
___ w DM, HTN p/w new anemia and DOE with crampy abdominal
pain, potentially c/f PUD.

# DIABETES MELLITUS 2, COMPLICATED BY RETINOPATHY:
- Last A1c 8.2
- Held home metformin while inpatient, restarted on discharge
- Decreased Lantus dose inpatient while NPO
- Insulin sliding scale while inpatient

# HLD:
- Patient reportedly not on statin because she doesn't like how 
it makes her feel,
despite it being on med list. It was not started during this 
hospitalization.

# FULL CODE (confirmed)

TRANSITIONAL ISSUES:
[ ] Please check CBC at next visit to ensure stable hematocrit. 
Hemoglobin on discharge was 9.3 and hematocrit was 28.8.
[ ] Patient should continue on high dose PPI unless told 
otherwise by gastroenterology.
[ ] Biopsies were pending at the time of discharge. Please make 
sure that patient gets results, including h.pylori.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. coenzyme Q10 unknown  oral DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Glargine 35 Units Bedtime
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Glargine 35 Units Bedtime
2. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
DAILY Disp #*90 Tablet Refills:*3
3. Pantoprazole 40 mg PO BID 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*180 Tablet Refills:*3
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
5. Aspirin 81 mg PO DAILY 
6. coenzyme Q10 1 tab ORAL DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anemia
Upper gastrointestinal bleeding
Gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you. You were admitted to the 
hospital due to anemia (low blood counts). We found that this 
was due to slow bleeding from your stomach due to gastritis 
(irritation of the stomach lining). You were started on 
pantoprazole (Protonix), a medication that helps reduce acid in 
the stomach and allows for it to heal.

You need to schedule an appointment with your primary care 
physician for within the next week. Please have your blood 
counts checked at that appointment to make sure they have 
remained stable.

If you have blood in your stool, worsening shortness of breath, 
or other symptoms that are concerning to you, please contact 
your primary care physician or return to the hospital for 
additional care.

Sincerely,
___, MD
 
Followup Instructions:
___